US08212041B2
4-((8-fluoro-6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline
Dioxane (3.6 mL) was added to 4-((6-chloro-8-fluoro-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline (175 mg, 488 μmol), X-Phos (32.6 mg, 68.3 μmol), 3-methyl-5-(trimethylstannyl)isothiazole (153 mg, 585 μmol), palladium acetate (7.67 mg, 34.1 μmol). The flask was purged with argon and sealed. The reaction mixture was stirred at 80° C. for 2d. More X-Phos (32.6 mg, 68.3 μmol), palladium acetate (7.67 mg, 34.1 μmol) and 3-methyl-5-(trimethylstannyl)isothiazole (153 mg, 585 μmol) were added and stirring was continued at 80° C. overnight. The reaction mixture was cooled at RT, concentrated in vacuo and purified by MPLC(CH2Cl2/MeOH: 100/0 to 90/10). Further purification by MPLC (ISCO, EtOAc/MeOH: 9/1, isocratic) afforded the title compound (105 mg, 51% yield). MS m/z=422.0 [M+H]+. Calc'd for C21H16FN5O2S: 421.46

reactant | 4-((6-chloro-8-fluoro-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline | 488 μmol, 175 mg | ClC=1C=C(C=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC)F | C17H12ClFN4O2
reactant | X-Phos | 68.3 μmol, 32.6 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 3-methyl-5-(trimethylstannyl)isothiazole | 585 μmol, 153 mg | CC1=NSC(=C1)[Sn](C)(C)C
reactant | X-Phos | 68.3 μmol, 32.6 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 3-methyl-5-(trimethylstannyl)isothiazole | 585 μmol, 153 mg | CC1=NSC(=C1)[Sn](C)(C)C
catalyst | palladium acetate | 34.1 μmol, 7.67 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 34.1 μmol, 7.67 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Dioxane | 3.6 mL | O1CCOCC1 | C4H8O2
product | 4-((8-fluoro-6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline | 105 mg, 51% yield | FC=1C=2N(C=C(C1)C1=CC(=NS1)C)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C21H16FN5O2S
